US06670372B2
1-{2-[(3-Phenyl-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 2.92 mmol) was dissolved in a mixture of methanol (15 mL) and dichioromethane (5 mL). Hydrogen chloride/diethyl ether (10 mL of 1M) was added and the reaction solution was allowed to stir for 16 hours by which time a precipitate had formed. The mixture was concentrated under reduced pressure to provide a solid. This material was recrystallized from acetonitrile containing a small amount of methanol to provide 0.52 g of 1-{2-[(3-phenyl-2-propynyl)oxy]ethyl}1H-imidazo[4,5-c]quinolin-4-amine hydrochloride as an off-white crystalline solid, m.p. 231-236° C.

reactant | 1-{2-[(3-Phenyl-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine | 2.92 mmol, 1.0 g | C1(=CC=CC=C1)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C21H18N4O
reactant | Hydrogen chloride diethyl ether | 1M, 10 mL | Cl.C(C)OCC
solvent | methanol | 15 mL | CO | CH4O
solvent | dichioromethane | 5 mL | ClCCl | CH2Cl2
product | 1-{2-[(3-phenyl-2-propynyl)oxy]ethyl}1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | 0.52 g | Cl.C1(=CC=CC=C1)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | InChI=1S/C21H18N4O.ClH/c22-21-19-20(17-10-4-5-11-18(17)24-21)25(15-23-19)12-14-26-13-6-9-16-7-2-1-3-8-16;/h1-5,7-8,10-11,15H,12-14H2,(H2,22,24);1H
